US04386085
121 g of isoamyl bromide were added dropwise to a mixture of 86 g of N-methyl-aniline, 500 ml of anhydrous benzene and 81 g of anhydrous triethylamine and the mixture was refluxed for 100 hours and was filtered. The filtrate was washed with water, dried and evaporated to dryness. The residue was distilled to obtain 90 g of N-methyl-N-(3-methylbutyl)-aniline boiling at 132° C. at 18 mm Hg.

reactant | isoamyl bromide | 121 g | C(CC(C)C)Br | C5H11Br
reactant | N-methyl-aniline | 86 g | CNC1=CC=CC=C1 | C7H9N
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 81 g | C(C)N(CC)CC | C6H15N
product | N-methyl-N-(3-methylbutyl)-aniline | 90 g | CN(C1=CC=CC=C1)CCC(C)C | C12H19N
